US04305944
2-Chloro-3-methoxypyridine
3-methoxy-2-(1H)pyridone, 10 g. (0.08 mole), 12.3 g. (0.08 mole) of phosphorus oxychloride, and 11.9 g. (0.08 mole) of N,N-diethylaniline are combined in a suitable reaction vessel and heated at reflux for 20 hrs. The reaction mixture was allowed to cool, and was then mixed with 200 ml. of water and ice. The aqueous mixture was extracted with ether and the extracts dried over magnesium sulfate. The drying agent was then removed by filtration and the solvent was removed from the filtrate by distillation in vacuo. The residue was extracted with 160 ml. of boiling hexane and the hexane extracts decanted from the residue while still hot. The hexane solution was cooled in ice resulting in precipitation of the desired produce, weight 7.5 g., m.p. 46°-48°.

reactant | 3-methoxy-2-(1H)pyridone | COC=1C(NC=CC1)=O | C6H7NO2
reactant | phosphorus oxychloride | 0.08 mole | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-diethylaniline | 0.08 mole | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | water | O | H2O
product | 2-Chloro-3-methoxypyridine | ClC1=NC=CC=C1OC | C6H6ClNO
